US07279481B2
8-Fluoro-2-Methyl-5-quinolinyl trifluoromethanesulfonate
A solution of 8-fluoro-2-methyl-quinolin-5-ol (WO/2002034754) (103 mg, 0.58 mmol) and pyridine (1 mL) in dichloromethane (4 mL) was cooled to 0° C. and trifluoromethanesulfonic anhydride (144 μL) was added. The reaction mixture was stirred under an inert atmosphere at room temperature for 1 h, then poured into water and extracted into ethyl acetate. The organic layers were combined, dried (sodium sulfate) and concentrated under reduced pressure. The crude was purified by flash chromatography on silica gel, eluting with ethyl acetate-cyclohexane (4:6) affording the title compound (134 mg, 74% yield).

reactant | 8-fluoro-2-methyl-quinolin-5-ol | 0.58 mmol, 103 mg | FC1=CC=C(C=2C=CC(=NC12)C)O | C10H8FNO
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 144 μL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 8-Fluoro-2-Methyl-5-quinolinyl trifluoromethanesulfonate | 134 mg, 74% yield | FC(S(=O)(=O)OC1=C2C=CC(=NC2=C(C=C1)F)C)(F)F | C11H7F4NO3S
